US07056916B2
(d) 6-benzyloxy-8-{1-hydroxy-2-[2-(4-isopropylphenyl)-1,1-dimethylethylamino]ethyl}-4H-benzo[1,4]oxazin-3-one
2.18 g (6.1 mmol) of benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 1.1 g (5.8 mmol) of 2-(4-isopropylphenyl)-1,1-dimethylethylamine are stirred in 40 mL ethanol at 50° C.–80° C. for one hour. After cooling to ambient temperature, 0.24 g (6.3 mmol) sodium borohydride is added. The mixture is stirred for one hour, diluted with 5 mL acetone, and stirred for a further 30 minutes. The reaction mixture is acidified with hydrochloric acid, combined with 100 mL water and 80 mL ethyl acetate, and made alkaline with ammonia. The organic phase is separated off, dried with sodium sulfate, and freed from solvent. The residue is dissolved in 20 mL ethyl acetate and 10 mL water, acidified with concentrated hydrochloric acid and diluted with diethyl ether. After the addition of a crystallization aid, the solid precipitate is suction filtered and washed. White solid. Yield: 1.7 g (52%, hydrochloride); melting point: 220° C.–222° C.

reactant | benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 6.1 mmol, 2.18 g | C(C1=CC=CC=C1)OC1OC2=C(NC1=O)C=CC=C2C(C(O)OCC)=O | C19H19NO6
reactant | 2-(4-isopropylphenyl)-1,1-dimethylethylamine | 5.8 mmol, 1.1 g | C(C)(C)C1=CC=C(C=C1)CC(C)(C)N | C13H21N
reactant | sodium borohydride | 6.3 mmol, 0.24 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 100 mL | O | H2O
product | 6-benzyloxy-8-{1-hydroxy-2-[2-(4-isopropylphenyl)-1,1-dimethylethylamino]ethyl}-4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(C=C1)C(C)C)(C)C)O | C30H36N2O4
